US07498337B2
tert-butyl ({5-(2-fluoropyridin-3-yl)-1-[(6-methoxypyridin-3-yl)sulfonyl]-1H-pyrrol-3-yl}methyl)methylcarbamate
By a similar operation as in Reference Example 79 and using tert-butyl ({5-bromo-1-[(6-methoxypyridin-3-yl)sulfonyl]-1H-pyrrol-3-yl}methyl)methylcarbamate (463 mg), (2-fluoropyridin-3-yl)boronic acid (172 mg), sodium carbonate (260 mg) and tetrakis(triphenylphosphine)palladium (176 mg), the title compound was obtained as a pale-yellow oil (yield 293 mg, 45%).

reactant | tert-butyl ({5-bromo-1-[(6-methoxypyridin-3-yl)sulfonyl]-1H-pyrrol-3-yl}methyl)methylcarbamate | 463 mg | BrC1=CC(=CN1S(=O)(=O)C=1C=NC(=CC1)OC)CN(C(OC(C)(C)C)=O)C | C17H22BrN3O5S
reactant | (2-fluoropyridin-3-yl)boronic acid | 172 mg | FC1=NC=CC=C1B(O)O | C5H5BFNO2
reactant | sodium carbonate | 260 mg | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium | 176 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl ({5-(2-fluoropyridin-3-yl)-1-[(6-methoxypyridin-3-yl)sulfonyl]-1H-pyrrol-3-yl}methyl)methylcarbamate | FC1=NC=CC=C1C1=CC(=CN1S(=O)(=O)C=1C=NC(=CC1)OC)CN(C(OC(C)(C)C)=O)C | C22H25FN4O5S
